US07348438B2
2-(2,2,2-Trifluoro-1-hydroxy-ethyl)-6-trifluoromethyl-1H-benzoimdazole-5-carbonitrile
4,5-Diamino-2-trifluoromethyl-benzonitrile (4.14 g; 20.6 mmoles) and 3,3,3-trifluoro-2-hydroxy-propionic acid (4.50 g; 31.2 mmoles) were suspended in 6N HCl (7 mL; 42 mmoles) under a nitrogen atmosphere. The reaction was stirred vigorously and heated to 108° C. for 18 hrs, then cooled to room temperature. The reaction was diluted with water (100 mL) and with ethyl acetate (100 mL), then sodium bicarbonate (5.19 g; 62.0 mmoles) was added slowly and in portions to quench the reaction. The aqueous layer was separated and extracted with ethyl acetate (3×40 mL). The extracts were combined, washed with water (30 mL) and brine (30 mL), then dried over Na2SO4. The filtrate was concentrated in vacuo to yield a crude dark solid which was then purified by column chromatography (SiO2; 30% ethyl acetate/CH2Cl2) to yield the title compound as a dark brown solid.

reactant | 4,5-Diamino-2-trifluoromethyl-benzonitrile | 20.6 mmoles, 4.14 g | NC1=CC(=C(C#N)C=C1N)C(F)(F)F | C8H6F3N3
reactant | 3,3,3-trifluoro-2-hydroxy-propionic acid | 31.2 mmoles, 4.50 g | FC(C(C(=O)O)O)(F)F | C3H3F3O3
reactant | HCl | 42 mmoles, 6N, 7 mL | Cl | ClH
reactant | sodium bicarbonate | 62.0 mmoles, 5.19 g | C([O-])(O)=O.[Na+]
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,2,2-Trifluoro-1-hydroxy-ethyl)-6-trifluoromethyl-1H-benzoimdazole-5-carbonitrile | FC(C(O)C1=NC2=C(N1)C=C(C(=C2)C#N)C(F)(F)F)(F)F | C11H5F6N3O
